US08865894B2
Step 5.2: (S)-4-Methoxymethyl-oxazolidin-2-one
TsOH (800 mg, 4.21 mmol) was added to a yellow solution of product from step 5.3 (1.013 g, 4.13 mmol) in MeOH (10 ml). The mixture was stirred at RT for 90 min. Then TsOH (140 mg, 0.74 mmol) was added and it was stirred for 70 min at RT. Then solvent was removed and the residue was dissolved in DCM (6 mL) with Triethylamine (1.44 ml, 10.32 mmol). A solution of triphosgene (0.613 g, 2.07 mmol) in DCM (4 mL) was slowly added to the mixture. The reaction mixture was stirred at RT for 2 h 30. The reaction was quenched with a few drops of water. It was then acidified to pH=4 with buffer was added and then the layers were separated. The aqueous one was extracted once more with some DCM. Organic layers were combined, dried over sodium sulfate and evaporated. The residue was purified by flash chromatography (DCM/MeOH: 100%→90% DCM) to give the title compound (231 mg, 38%). ESI-MS: 132.1 [M+H]+ (LC-MS 1).

reactant | TsOH | 4.21 mmol, 800 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | TsOH | 0.74 mmol, 140 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | Triethylamine | 10.32 mmol, 1.44 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 2.07 mmol, 0.613 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | MeOH | 10 ml | CO | CH4O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-Methoxymethyl-oxazolidin-2-one | 231 mg, 38% | COC[C@@H]1NC(OC1)=O | C5H9NO3
